US07323475B2
a) (5-Iodo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid
4-Iodo-phthalic acid, 10 g, was mixed intimately with 2.63 g of glycine and the mixture was heated to 200° C. for 10 min. After cooling, the solid reaction mixture was extracted with ethyl acetate to give, after concentration, 6.40 g of tan solid: MS-(−)-ion, Proton NMR (200 MHz, methanol-d-4): δ 8.26-8.18 (m, 2H), 7.68-7.61 (m, 1H), 4.39 (s, 1H).

reactant | 4-Iodo-phthalic acid | IC=1C=C(C(C(=O)O)=CC1)C(=O)O | C8H5IO4
reactant | glycine | 2.63 g | NCC(=O)O | C2H5NO2
product | (5-Iodo-1,3-dioxo-1,3-dihydro-isoindol-2-yl)-acetic acid | IC=1C=C2C(N(C(C2=CC1)=O)CC(=O)O)=O | C10H6INO4
